US09334278B2
N-tert-Butyl-2-(2-methoxypyrimidin-5-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (100 mg, 212 μmol) was dissolved in dichloromethane and treated with trifluoroacetic acid (484 mg, 327 μL, 4.24 mmol). The mixture was stirred at room temperature for 16 h. The mixture was concentrated then re-dissolved in dichloromethane (3 mL), methanol (1.5 mL) and ammonium hydroxide (0.45 mL) and the mixture stirred at room temperature for 1 h. The mixture was concentrated in vacuo then triturated with water and filtered. The solid obtained was washed with ether then dried to give N-tert-butyl-2-(2-methoxypyrimidin-5-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (64 mg, 187 μmol, 88%) as a yellow solid. 1H NMR (400 MHz, DMSO-d) δ ppm: 12.35 (s, 1H), 9.48 (s, 1H), 8.86 (s, 2H), 8.01 (s, 1H), 7.97 (s, 1H), 7.63 (s, 1H), 3.88 (s, 3H), 1.38 (s, 9H); MS (EI/CI) m/z: 342.1 [M+H].

reactant | N-tert-Butyl-2-(2-methoxypyrimidin-5-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 212 μmol, 100 mg | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC=2C=NC(=NC2)OC)COCC[Si](C)(C)C | C22H33N7O3Si
reactant | trifluoroacetic acid | 4.24 mmol, 327 μL, 484 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-tert-butyl-2-(2-methoxypyrimidin-5-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 187 μmol, 64 mg, 88% | C(C)(C)(C)NC(=O)C1=CNC2=NC=C(N=C21)NC=2C=NC(=NC2)OC | C16H19N7O2
